US07498440B2
Preparation of 4-[hydroxy(diphenyl)methyl]-1-[3-(phenyloxy)propyl]-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 3, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (0.045 g, 0.153 mmol) and 3-bromopropyl phenyl ether (0.035 mL, 0.222 mmol) in 2 CH3CN/3 CHCl3 (3.0 mL) were reacted to give the desired product (0.0662 g, 86.0%). EI-MS m/z 428(M+) Rt (1.97 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.153 mmol, 0.045 g | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | 3-bromopropyl phenyl ether | 0.222 mmol, 0.035 mL | C1(=CC=CC=C1)OCCCBr | C9H11BrO
solvent | CH3CN | 3.0 mL | CC#N | C2H3N
product | 4-[hydroxy(diphenyl)methyl]-1-[3-(phenyloxy)propyl]-1-azoniabicyclo[2.2.2]octane bromide | 0.0662 g, 86.0% | [Br-].OC(C12CC[N+](CC1)(CC2)CCCOC2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C29H34NO2.BrH/c31-29(25-11-4-1-5-12-25,26-13-6-2-7-14-26)28-17-21-30(22-18-28,23-19-28)20-10-24-32-27-15-8-3-9-16-27;/h1-9,11-16,31H,10,17-24H2;1H/q+1;/p-1
